US06340559B1
Preparation of Tris-(2-hydroxyethyl) methyl ammonium hydroxide
The procedure of Example 1 for the reparation of bis-(2-hydroxyethyl) dimethyl ammonium hydroxide was followed, except that about 357 grams of methyl diethanolamine (MDEA) was used instead of DMEA, 489 grams of de-ionized water, and 115 grams of ethylene oxide were used. The product is a clear and colorless solution. However, after about four days of standing at room temperature, the product darkened somewhat.

reactant | bis-(2-hydroxyethyl) dimethyl ammonium hydroxide | [OH-].OCC[N+](C)(C)CCO
reactant | methyl diethanolamine | about 357 grams | CN(CCO)CCO | C5H13NO2
reactant | ethylene oxide | 115 grams | C1CO1 | C2H4O
solvent | water | 489 grams | O | H2O
product | Tris-(2-hydroxyethyl) methyl ammonium hydroxide | [OH-].OCC[N+](C)(CCO)CCO | InChI=1S/C7H18NO3.H2O/c1-8(2-5-9,3-6-10)4-7-11;/h9-11H,2-7H2,1H3;1H2/q+1;/p-1
